US07030141B2
Step 3: Pyrrolidine-2-carboxylic acid (4-cyano-phenyl)-amide
2-(4-Cyano-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (3 g, 8 mmol) was dissolved in 90 mL of a 1:2 mixture of trifluoroacetic acid and dichloromethane. The reaction was stirred at ambient temperature for one hour then concentrated to yield title compound as an amber oil which was carried onto next step as is. APCI (AP−): 214.1 (M−H)−.

reactant | 2-(4-Cyano-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 8 mmol, 3 g | C(C)(C)(C)OC(=O)N1C(CCC1)C(NC1=CC=C(C=C1)C#N)=O | C17H21N3O3
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | Pyrrolidine-2-carboxylic acid (4-cyano-phenyl)-amide | C(#N)C1=CC=C(C=C1)NC(=O)C1NCCC1 | C12H13N3O
